US09163051B2
Step 1: Synthesis of 2,3,4,5-tetrakis(trimethylsilyloxy)-6-trimethylsilyloxymethyl-2-(5-(4-ethylphenyl)hydroxymethyl-2-(1-methoxy-1-methylethoxymethyl)phenyl)tetrahydropyran
After the reaction mixture was cooled to −48° C., the mixture was added dropwise to a solution of 3,4,5-tris(trimethylsilyloxy)-6-trimethylsilyloxymethyl-tetrahydropyran-2-one (402 g, 862 mmol) in tetrahydrofuran (2012 ml) at −77° C., and the reaction mixture was stirred at −70° C. for 1.5 hours. Triethylamine (24 ml, 172 mmol) and trimethylsilyl chloride (98 g, 903 mmol) were added thereto, and the mixture was warmed to 0° C. to give a solution containing 2,3,4,5-tetrakis(trimethylsilyloxy)-6-trimethylsilyloxymethyl-2-(5-bromo-2-(1-methoxy-1-methylethoxymethyl)phenyl)tetrahydropyran. The resulting solution was cooled to −78° C., and n-butyllithium in hexane (1.54 M, 1119 ml, 1724 mmol) was added dropwise thereto at the same temperature. After the mixture was stirred for 1 hour, 4-ethylbenzaldehyde (242 g, 1806 mmol) was added dropwise at −78° C., and the mixture was stirred at the same temperature for 2.5 hours. The reaction mixture was poured into an aqueous solution of 20% ammonium chloride, and the organic layer was separated, and washed with water. The solvent was evaporated under reduced pressure to give a product containing the titled compound as an oil (879 g). The product was used in the next step without further purification.

reactant | 3,4,5-tris(trimethylsilyloxy)-6-trimethylsilyloxymethyl-tetrahydropyran-2-one | 862 mmol, 402 g | C[Si](OC1C(OC(C(C1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | Triethylamine | 172 mmol, 24 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 903 mmol, 98 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2,3,4,5-tetrakis(trimethylsilyloxy)-6-trimethylsilyloxymethyl-2-(5-bromo-2-(1-methoxy-1-methylethoxymethyl)phenyl)tetrahydropyran | C[Si](OC1(OC(C(C(C1O[Si](C)(C)C)O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)C1=C(C=CC(=C1)Br)C(OC)OC(C)C)(C)C | C32H65BrO8Si5
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1724 mmol, 1.54 M, 1119 ml | CCCCCC | C6H14
reactant | 4-ethylbenzaldehyde | 1806 mmol, 242 g | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2012 ml | O1CCCC1 | C4H8O
product | 2,3,4,5-tetrakis(trimethylsilyloxy)-6-trimethylsilyloxymethyl-2-(5-(4-ethylphenyl)hydroxymethyl-2-(1-methoxy-1-methylethoxymethyl)phenyl)tetrahydropyran | 879 g | C[Si](OC1(OC(C(C(C1O[Si](C)(C)C)O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)C1=C(C(=CC(=C1)C1=CC=C(C=C1)CC)CO)C(OC)OC(C)C)(C)C | C41H76O9Si5
